US07728025B2
(Step 5) Production of 5-benzyloxy-6-(2-fluorophenoxy)-2-pyrazin-2-yl-1H-benzimidazole
3.72 g of tin(II) chloride dihydrate was added to a dimethylformamide (16 ml) suspension of 1.52 g of N-(4-benzyloxy-5-(2-fluorophenoxy)-2-nitrophenyl)pyrazinecarboxamide, and the reaction liquid was stirred overnight at 80° C. The reaction liquid was diluted with ethyl acetate, washed with aqueous saturated sodium bicarbonate, water and saturated saline in order, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was washed with a mixed solvent of ethyl acetate and hexane to obtain the entitled compound as a yellow solid.

reactant | tin(II) chloride dihydrate | 3.72 g | O.O.[Sn](Cl)Cl
reactant | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
reactant | N-(4-benzyloxy-5-(2-fluorophenoxy)-2-nitrophenyl)pyrazinecarboxamide | 1.52 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1OC1=C(C=CC=C1)F)NC(=O)C1=NC=CN=C1)[N+](=O)[O-] | C24H17FN4O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-benzyloxy-6-(2-fluorophenoxy)-2-pyrazin-2-yl-1H-benzimidazole | C(C1=CC=CC=C1)OC1=CC2=C(NC(=N2)C2=NC=CN=C2)C=C1OC1=C(C=CC=C1)F | C24H17FN4O2
